US04906643
A mixture of 3.47 parts of 4-chloro-1-(3-pyridinyl)-1-butanone, 4.5 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 1.94 parts of N,N-diethylethanamine, 0.1 parts of potassium iodide and 67.5 parts of N,N-dimethylformamide was stirred and heated for 48 hours at 70° C. The reaction mixture was evaporated. The residue was washed with a sodium carbonate solution in water and purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.36 parts (20%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(3-pyridinyl)butyl]-4-piperidinyl]benzamide; mp. 166.2° C. (compound 1).

reactant | 4-chloro-1-(3-pyridinyl)-1-butanone | ClCCCC(=O)C=1C=NC=CC1 | C9H10ClNO
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(3-pyridinyl)butyl]-4-piperidinyl]benzamide | 20% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(C=2C=NC=CC2)=O)OC)C=C1Cl)OC | C23H29ClN4O4
